US07115589B2
(3-Chlorophenyl)-(2-fluoro-9-isopropyl-9H-purin-6-yl)amine:
6-Chloro-2-fluoro-9-isopropyl-9H-purine (214 mg, 1 mmol) was mixed with 3-chloroaniline (127.6 mg, 1 mmol) in 12 mL n-BuOH. DIEA (357.6 mg, 2.8 mmol) was added and the solution was heated at 90° C. overnight. Solvent was removed in vacuo and the residue was chromatographed on silica gel (CH2Cl2/EtOAc 2:2, Rf 0.44) to get the product as a white solid (148 mg, 48%).

reactant | 6-Chloro-2-fluoro-9-isopropyl-9H-purine | 1 mmol, 214 mg | ClC1=C2N=CN(C2=NC(=N1)F)C(C)C | C8H8ClFN4
reactant | 3-chloroaniline | 1 mmol, 127.6 mg | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | DIEA | 2.8 mmol, 357.6 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | n-BuOH | 12 mL | CCCCO | C4H10O
product | (3-Chlorophenyl)-(2-fluoro-9-isopropyl-9H-purin-6-yl)amine | 148 mg, 48% | ClC=1C=C(C=CC1)NC1=C2N=CN(C2=NC(=N1)F)C(C)C | C14H13ClFN5
